US04128646
ethyl-7,8-methylenedioxy-pyrimido[5,6-b]quinoxaline-4(3H)-one-2-carboxylate
pyrimido[5,6-b]quinoxaline-4(3H)-one-2-carboxylic acid, and ethyl-6,7,8,9-tetramethyl-pyrimido[5,6-b]quinoxaline-4(3H)-one-2-carboxylate.

reactant | pyrimido[5,6-b]quinoxaline-4(3H)-one-2-carboxylic acid | N1=C(NC(C2=NC=3C=CC=CC3N=C21)=O)C(=O)O | C11H6N4O3
reactant | ethyl-6,7,8,9-tetramethyl-pyrimido[5,6-b]quinoxaline-4(3H)-one-2-carboxylate | C(C)OC(=O)C1=NC=2C(=NC=3C(=C(C(=C(C3N2)C)C)C)C)C(N1)=O | C17H18N4O3
product | ethyl-7,8-methylenedioxy-pyrimido[5,6-b]quinoxaline-4(3H)-one-2-carboxylate | C(C)OC(=O)C1=NC=2C(=NC=3C=C4C(=CC3N2)OCO4)C(N1)=O | C14H10N4O5
